US08492409B2
(5) Synthesis of 1-(3,5-dichloropyridin-2-yl)-3-(prop-2-ynyloxy)-1H-pyrazole-5-carboxylic acid
To a 100 mL flask, ethyl 1-(3,5-dichloropyridin-2-yl)-3-(prop-2-ynyloxy)-1H-pyrazole-5-carboxylate (0.3 g, 0.88 mmol), methanol (10 mL), water (10 mL) and sodium hydroxide (0.04 g, 0.88 mmol) were added. The reaction mixture was stirred at room temperature for 1 hour. When reacted completely, water (40 mL) was added. The water (40 mL), ether (50 mL) were added and partitioned, acidified with concentrated hydrochloric acid to pH of 4, extracted with ethyl acetate (150 mL). The organic layer was washed with saturated brine (50 mL), dried over anhydrous magnesium sulfate and concentrated at reduced pressure to give the product (0.27 g) as slight yellow solid in 73% yield. Melting point: 151-157° C.

reactant | ethyl 1-(3,5-dichloropyridin-2-yl)-3-(prop-2-ynyloxy)-1H-pyrazole-5-carboxylate | 0.88 mmol, 0.3 g | ClC=1C(=NC=C(C1)Cl)N1N=C(C=C1C(=O)OCC)OCC#C | C14H11Cl2N3O3
reactant | methanol | 10 mL | CO | CH4O
reactant | water | 10 mL | O | H2O
reactant | sodium hydroxide | 0.88 mmol, 0.04 g | [OH-].[Na+]
reactant | water | 40 mL | O | H2O
reactant | water | 40 mL | O | H2O
solvent | ether | 50 mL | CCOCC | C4H10O
product | 1-(3,5-dichloropyridin-2-yl)-3-(prop-2-ynyloxy)-1H-pyrazole-5-carboxylic acid | 0.27 g, 73% yield | ClC=1C(=NC=C(C1)Cl)N1N=C(C=C1C(=O)O)OCC#C | C12H7Cl2N3O3
